Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
alendronate sodium
 
Attending: ___.
 
Chief Complaint:
Disinhibited conduct, progressively worsening gait, and large 
volume urinary incontinence.
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ yo woman with medical history of HTN, GERD,
and recent personality changes presenting to the ED sent from 
her
assisted living facility with ___ weeks of disinhibited conduct,
progressively worsening gait, and large volume urinary
incontinence.

Per discussion with her son she has been in ___ 
___ with subtle cognitive decline. She had been doing well
there until the end of ___, however he reports in the last ___
weeks she has shown significant personality changes including
disinhibition, aggression (yelling/hitting staff), and becoming
very confrontational which is out of her character. He also
complains she has developed gait instability, initially 
requiring
a walker and much worse in the last week to the point that she 
is
unable to stand on her own and has been requiring a wheelchair 
to
get around. She also has large volume urinary incontinence 
during
the same period which is new for her.

Per her PCP ___ (___) she was initially
evaluated in ___. At the time she was having mild
psychiatric issues which she describes as hallucinations and
flight of ideas. She was started on Seroquel bid with 
significant
improvement. At the time she was described as "verbose but
appropriate". She was seen again by Dr. ___ ___ weeks ago for
evaluation of falls up to three times per day. She was also
acting inappropriately disrobing herself in her living facility.
At the time the case was discussed with a neurologist at
___ which thought she may have "frontal lobe syndrome".
MRI/MRA was performed which per report showed lacunar infarcts,
moderate atrophy, and small vessel ischemic disease.      

At some point during the last ___ weeks he was admitted to a
psych facility and started on Zoloft, Remeron, and Seroquel. Her
son reports she takes Ativan 1mg TID for many decades for
anxiety. 

On arrival to the ED she was agitated requiring lorazepam 2mg PO
total, Seroquel 25mg PO x1, and home Depakote 125 mg. Psychiatry
evaluated and confirmed ___. Recommended Thiamine
supplementation due to concerns for Wernike's.

On neurologic review of systems, the patient denies headache,
lightheadedness, or confusion. Denies difficulty with producing
or comprehending speech. Denies loss of vision, blurred vision,
diplopia, vertigo, tinnitus, hearing difficulty, dysarthria, or
dysphagia. Denies focal muscle weakness, numbness, parasthesia.
Denies loss of sensation. Reports bladder incontinence. Firmly
denies difficulty with gait.

On general review of systems, the patient denies chest pain,
palpitations, dyspnea, or cough. Denies nausea, vomiting,
diarrhea, constipation, or abdominal pain. 
 
Past Medical History:
HTN
GERD
LT radial fracture with hardware in place
Recently seen by neurologist at ___ w/"frontal lobe
syndrome" 
Per psych note: "No psych history prior ___ who is sent via
___ from her assisted living facility for significantly
worsening aggression, impulsivity, and gait disturbance over the
last two months".  
 
Social History:
___
Family History:
Mother: died of possible MI at ___ yo 
Dad: died at age ___ of unknown causes 
Son: Healthy
 
Physical ___:
==============
ADMISSION EXAM
==============
Vitals:  
98.1 
74 
137/81 
16 
99% RA 

General:  NAD
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: RRR, no M/R/G
Pulmonary: CTAB, no crackles or wheezes
Abdomen: Soft, NT, ND, +BS, no guarding
Extremities: Warm, no edema

Neurologic Examination:
MS: Awake, alert, oriented x 3. Able to relate history with 
difficulty as rationalizes her gait issues by saying her socks
are sticky, her shoes were tight, or her toenails were too long.
Inattentive, unable to name ___ backwards as she writes them 
down
FWD and then reads them in BW order. Speech is fluent with full
sentences, intact repetition, and intact verbal comprehension.
Content of speech bizarre as describes formed hallucinations
("when I close my eyes I see a bunny"). Mood is labile. Able to
follow both midline and appendicular commands.

Cranial Nerves: PERRL 4-3mm brisk. EOMI, no nystagmus. V1-V3
without deficits to light touch bilaterally. No facial movement
asymmetry. Hearing intact to finger rub bilaterally.  Palate
elevation symmetric. SCM/Trapezius strength ___ bilaterally.
Tongue midline.

Motor - Normal bulk and tone. No drift. No tremor or asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  4+   5    5  5     5     5
R  5    ___   ___  4+   5    5  5     5     5

- Sensory - No deficits to light touch, but patient would not
allow us to touch her feet any further to assess for
proprioception

-DTRs:
  Bi Tri ___ Pat Ach
L  3  3    3    3   1
R  3  3    3    3   1
Plantar response upgoing bilaterally. Unable to test for jaw 
jerk
due to poor cooperation.

Coordination: No dysmetria with finger to nose testing
bilaterally. 

Gait testing attempted but patient with broad base stance and
significant retropulsion, unable to stand unassisted. 

==============
DISCHARGE EXAM
==============
Essentially unchanged. 

-VS: T:98.___.5 BP: 145-153/79-84 HR: ___ RR: 18 O2: 97% RA
-GEN: Awake in bed, NAD
-HEENT: NC/AT
-NECK: Supple
-CV: warm, well perfused
-PULM: normal inspiratory effort
-ABD: Soft, NT/ND. 
-EXT: No clubbing, cyanosis, or edema. 

-MS: Alert, oriented x3. Verbally combative throughout exam.
Unable to perform luria sequence. States MOYF and MOYB. ___
recall ___ with categories. Spontaneously repeated the 3 words 
correctly ~10 minutes later. Naming intact. Repetition and 
comprehension intact. Able to read and write. Follows commands,
but perseverates on prior task. 
-CN: PERRL ___. Limited upgaze, otherwise EOMI. Face symmetric.
Tongue midline. Intact sensation in V1-V3.
-Motor: Mildly increased tone. Postural tremor L>R. ___ 
bilateral
delt/bic/tri, 4+ IP b/l, giveway weakness bilateral quad/ham, 
___
bilateral TA/Gas
-DTR: R toe down. L toe mute. (+)palmar-mental reflex R>L, (-)
glabellar reflex. (+) jaw jerk 
  Bi Tri ___ Pat Ach
L  3  3    3    3   1
R  3  3    3    3   1
-Sensory: Intact to light touch throughout. 
-Coordination: Intact finger to nose, mild postural tremor
bilaterally. Finger tapping more clumsy on L. 
-Gait: Requires assistance to sit at the edge of bed, 
retropulses
when attempts to stand. Requires two-person assist to stand
upright. 
 
Pertinent Results:
====
LABS
====

___ 06:24PM BLOOD WBC-10.8* RBC-4.64 Hgb-12.9 Hct-41.1 
MCV-89 MCH-27.8 MCHC-31.4* RDW-14.3 RDWSD-46.1 Plt ___
___ 06:24PM BLOOD Neuts-74.9* Lymphs-14.7* Monos-6.5 
Eos-3.0 Baso-0.4 Im ___ AbsNeut-8.13* AbsLymp-1.59 
AbsMono-0.71 AbsEos-0.32 AbsBaso-0.04
___ 05:00AM BLOOD WBC-8.2 RBC-4.39 Hgb-12.3 Hct-39.7 MCV-90 
MCH-28.0 MCHC-31.0* RDW-14.3 RDWSD-47.6* Plt ___
___ 05:00AM BLOOD ___ PTT-31.7 ___
___ 06:24PM BLOOD Glucose-99 UreaN-9 Creat-0.7 Na-140 K-3.7 
Cl-101 HCO3-25 AnGap-18
___ 05:00AM BLOOD Glucose-84 UreaN-8 Creat-0.6 Na-143 K-3.8 
Cl-104 HCO3-28 AnGap-15
___ 06:24PM BLOOD ALT-8 AST-13 AlkPhos-114* TotBili-0.3
___ 05:00AM BLOOD Calcium-8.4 Phos-3.8 Mg-2.1
___ 05:00AM BLOOD VitB12-580 Folate-10
___ 05:00AM BLOOD TSH-1.0
___ 06:24PM BLOOD Valproa-23*
___ 06:24PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 12:22AM URINE Color-Straw Appear-Hazy Sp ___
___ 12:22AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.5 Leuks-NEG

- CSF
___ 04:07PM CEREBROSPINAL FLUID (CSF) 
WBC-2 RBC-94* Polys-5 ___ Monos-24 Eos-1
TotProt-55* Glucose-54
FLUID CULTURE-PRELIMINARY; ACID FAST CULTURE-PRELIMINARY NEG

- Micro
SEROLOGY/BLOOD RAPID PLASMA REAGIN TEST-PENDING
Blood (LYME) Lyme IgG-PENDING; Lyme IgM-PENDING
URINE CULTURE-NEGATIVE

=======
IMAGING
=======
- ___ CT Head
1. No evidence of acute intracranial abnormalities. 
Specifically, no evidence for normal pressure hydrocephalus. 
2. Age related global atrophy and chronic microangiopathy. 
3. Mild left sphenoid sinus disease. 
 
Brief Hospital Course:
Ms. ___ is a ___ yo woman with medical history of HTN, 
GERD, and progressive personality changes presenting to the ED 
sent from her assisted living facility with ___ weeks of 
worsening disinhibited conduct, worsening gait, and large volume 
urinary incontinence, diagnosed with Fronto-Temporal Dementia. 

Neurologic exam is limited by labile mood but notable for 
numerous frontal signs including inattention, disinhibition, 
inability to perform Luria sequence, brisk but symmetric 
reflexes, and significant retropulsion with attempted gait 
assessment. NCHCT with evidence of atrophy (especially 
frontally) and small vessel ischemic disease. History, exam, and 
imaging most consistent with fronto-temporal dementia, likely 
exacerbated by chronic vascular dementia. CSF studies were 
normal and showed no evidence of infection or inflammatory 
process. Opening pressure was slightly elevated at 21cm, however 
this done in ___ with the patient supine rather in flexed lateral 
position and likely represents false elevation.  Suspicion was 
low for NPH. She is medically cleared for discharge. Studies for 
Lyme and syphilis are pending, but these are sufficiently 
unlikely given the overall clinical presentation that their 
pending status should not be a barrier to discharge to an 
appropriate care facility. 

She was evaluated by psychiatry who assessed the determined her 
to meet ___ for inability to care for self in the 
community, absence of insight into her care needs or 
presentation, and that she would benefit from an admission to a 
___ facility (see note from Dr. ___, 
___. 

# Dementia: Likely frontotemporal dementia. 
- Continue divalproex ___ TID. Consider increasing if LFTs 
stable. 
- Stop memantine. 
- Continue quetiapine 25mg QHS PRN. 
- Continue lorazepam taper to discontinuation. Currently 0.5mg 
BID (home 1mg TID). Contributing to disinhibition. 

CV:
# Hypertension: 
- Continue atenolol 25mg BID. Consider resumption of home 50mg 
dose, or switch to agent with more CNS effects, such as 
propranolol. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO DAILY 
2. Sertraline 50 mg PO DAILY 
3. QUEtiapine Fumarate 25 mg PO BID 
4. Atenolol 50 mg PO BID 
5. Divalproex (DELayed Release) 125 mg PO TID 
6. Mirtazapine 7.5 mg PO QHS 
7. LORazepam 1 mg PO TID 
8. Vitamin D 1000 UNIT PO DAILY 
9. Cyanocobalamin 100 mcg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild  
2.  Divalproex Sod. Sprinkles 125 mg PO TID  
3.  Docusate Sodium 100 mg PO BID  
4.  Heparin 5000 UNIT SC BID  
5.  Senna 17.2 mg PO HS  
6.  Thiamine 100 mg PO DAILY  
7.  Atenolol 25 mg PO BID  
8.  LORazepam 0.5 mg PO BID  
9.  QUEtiapine Fumarate 25 mg PO QHS:PRN agitation  
10.  Cyanocobalamin 100 mcg PO DAILY  
11.  Omeprazole 20 mg PO DAILY  
12.  Sertraline 50 mg PO DAILY  
13.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Frontotemporal Dementia

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Ms. ___,

You were admitted for symptoms of disinhibited conduct, 
including physical aggression, and worsening gait. Upon 
evaluation, you did not have evidence for any infectious, 
inflammatory, or other treatable cause for these symptoms. You 
showed neuropsychiatric signs consistent with a form of dementia 
that initially affects executive function (inhibition and 
planning). You will be referred to a care facility that 
specializes in this and similar conditions, and they will be 
best able to care for you. 

We made the following changes to your medications: 
- Weaning your Ativan (lorazepam). This worsens cognitive 
function and disinhibition. 
- STOP Remeron (mirtazapine). As it did not be appear to be 
having any effect and in order to simplify your medication 
regimen. 
- REDUCE Seroquel (quetiapine) from 25mg TWICE PER DAY to 25mg 
AT NIGHT IF NEEDED. This medicine is for agitation - which was 
not prominent during your stay - and can be used for now only 
when needed, in order to avoid excessive sedation. 

Thank you,
Your ___ Neurology Team
 
Followup Instructions:
___